US07968556B2
SYNTHESIS OF 2-(TRANS-4-HYDROXYCYCLOHEXYLAMINO)-9-(2-METHOXYPHENYL)-8-OXO-8,9-DIHYDRO-7H-PURINE-6-CARBOXAMIDE
Ethyl 2-(trans-4-hydroxycyclohexylamino)-9-(2-methoxyphenyl)-8-oxo-8,9-dihydro-7H-purine-6-carboxylate and the imidazole ester. Ethyl 5-amino-2-(trans-4-hydroxy-cyclohexylamino)-6-(2-methoxyphenylamino)pyrimidine-4-carboxylate (0.240 g, 0.598 mmol) and 1,1′-1,1′-carbonyldiimidazole (0.968 g, 5.98 mmol) in dichloromethane (20 mL) were reacted according to general procedure F. A mixture of the title compound and the imidazole ester were formed and were taken on without further purification. MS (ESI) m/z 399 [M+1]+ (title compound), 522 [M+1]+ (imidazole urea).

reactant | Ethyl 2-(trans-4-hydroxycyclohexylamino)-9-(2-methoxyphenyl)-8-oxo-8,9-dihydro-7H-purine-6-carboxylate | O[C@@H]1CC[C@H](CC1)NC1=NC(=C2NC(N(C2=N1)C1=C(C=CC=C1)OC)=O)C(=O)OCC | C21H25N5O5
reactant | Ethyl 5-amino-2-(trans-4-hydroxy-cyclohexylamino)-6-(2-methoxyphenylamino)pyrimidine-4-carboxylate | 0.598 mmol, 0.240 g | NC=1C(=NC(=NC1NC1=C(C=CC=C1)OC)N[C@@H]1CC[C@H](CC1)O)C(=O)OCC | C20H27N5O4
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 2-(TRANS-4-HYDROXYCYCLOHEXYLAMINO)-9-(2-METHOXYPHENYL)-8-OXO-8,9-DIHYDRO-7H-PURINE-6-CARBOXAMIDE | O[C@@H]1CC[C@H](CC1)NC1=NC(=C2NC(N(C2=N1)C1=C(C=CC=C1)OC)=O)C(=O)N | C19H22N6O4
